US07807673B2
Step H: 4-[2-(3-Aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-phenyl-2-pyrimidinamine
To a solution of 4-[2-(3-nitrophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-phenyl-2-pyrimidinamine (809 mg, 1.98 mmol) in 1,4-dioxane (16 mL) was added sodium sulfide nonhydrate (1.05 g, 6 mmol) in water (4 mL). The mixture was heated at 90° C. for 5 h, allowed to cool to rt and concentrated in vacuo. The residue was diluted with EtOAc and water. The organic layer was separated and the aqueous layer is extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered and concentrated to give a dark solid. The crude material was purified by silica gel chromatography (hexanes/EtOAc 30-50%) to afford the titled product (462 mg, 62% yield). 1H NMR (400 MHz, CDCl3): δ 3.75 (brs, 2H), 6.63 (d, 1H, J=5.3 Hz), 6.78 (m, 1H), 6.91 (m, 1H), 6.96-7.00 (m, 2H), 7.06 (m, 1H), 7.16 (m, 1H), 7.22-7.36 (m, 4H), 7.65 (m, 1H), 8.17 (d, 1H, J=5.3 Hz), 8.42 (m, 1H), 8.52 (m, 1H); ES-LC/MS m/z=379 [M+H]+.

reactant | 4-[2-(3-nitrophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-phenyl-2-pyrimidinamine | 1.98 mmol, 809 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC=CC=C1 | C23H16N6O2
reactant | sodium sulfide | 6 mmol, 1.05 g | [S-2].[Na+].[Na+]
solvent | 1,4-dioxane | 16 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
product | 4-[2-(3-Aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-phenyl-2-pyrimidinamine | 462 mg, 62% yield | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC=CC=C1 | C23H18N6
